US07745641B2
In a similar manner to Step 1 of Example 289, 4-hydroxy-5-formyl-3-methoxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (325 mg, 0.720 mmol) was dissolved in dichloromethane (10 mL), and the solution was treated with triethylamine (0.401 mL, 2.88 mmol) and methanesulfonyl chloride (0.111 mL, 1.43 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=95/5 to 80/20) to obtain 4-methanesulfonyloxy-5-formyl-3-methoxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (381 mg, yield 58%).

reactant | 4-hydroxy-5-formyl-3-methoxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 0.720 mmol, 325 mg | OC1=C2C(N(C(C2=C(C=C1C=O)I)=O)C(C)(C1=CC=CC=C1)C)OC | C19H18INO4
reactant | triethylamine | 2.88 mmol, 0.401 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.43 mmol, 0.111 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-methanesulfonyloxy-5-formyl-3-methoxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 381 mg, yield 58% | CS(=O)(=O)OC1=C2C(N(C(C2=C(C=C1C=O)I)=O)C(C)(C1=CC=CC=C1)C)OC | C20H20INO6S
